US09388173B2
Step 3: 6-bromo-3-methylimidazo[1,5-a]pyridine
To a solution of N-((5-bromopyridin-2-yl)methyl)acetamide (450 mg, 1.96 mmol) in toluene (15 mL) was added POCl3 (600 mg, 3.92 mmol) and the mixture stirred at refluxing temperature for 6 h. After cooling, the reaction mixture was quenched by adding water (1 mL) and concentrated to remove toluene. The residue was diluted with water (5 mL) and extracted with EtOAc (3×10 mL) with the organic layer concentrated to give a crude product which was used in next step without further purification (290 mg, Yield 70%). LCMS (m/z): 211.0 (M+1)

reactant | N-((5-bromopyridin-2-yl)methyl)acetamide | 1.96 mmol, 450 mg | BrC=1C=CC(=NC1)CNC(C)=O | C8H9BrN2O
reactant | POCl3 | 3.92 mmol, 600 mg | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-3-methylimidazo[1,5-a]pyridine | Yield 70% | BrC=1C=CC=2N(C1)C(=NC2)C | C8H7BrN2
